US06440440B1
A mixture of bromobenzene (0.3 mol) in THF (300 ml) was added dropwise to a mixture of magnesium (0.32 mol) in THF (20 ml). The mixture was stirred and refluxed for 1 hour. A mixture of 4-biphenylcarboxaldehyde (0.3 mol) in THF (500 ml) was added dropwise. The mixture was stirred and refluxed for 2 hours, at room temperature overnight, poured out into a saturated NH4Cl solution and extracted with DCM. The organic layer was separated, washed three times, dried, filtered and the solvent was evaporated. The residue was triturated in hexane, filtered off and purified over silica gel on a glass filter (eluent: CH2Cl2 100%). The pure fractions were collected and the solvent was evaporated. The residue was triturated in DIPE, filtered off and dried, yielding 31 g of (±)-α-phenyl(1,1′-biphenyl)-4-methanol (interm. 23).

reactant | bromobenzene | 0.3 mol | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 0.32 mol | [Mg] | Mg
reactant | 4-biphenylcarboxaldehyde | 0.3 mol | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (±)-α-phenyl(1,1′-biphenyl)-4-methanol | 31 g | C1(=CC=CC=C1)C(O)C1=CC=C(C=C1)C1=CC=CC=C1 | C19H16O
